US04443464
Another process is also based on (+)-2-(2,6-dichlorophenoxy)-propionic acid ethylester which is reacted with an ethanolic solution of ammonia at room temperature and is converted in to (-)-2-(2,6dichlorophenoxy)-propionic acid amide which is difficultly soluble in ethanol. This amide is dehydrated at from 0° to 30° C. with a titanium tetrachloride/tetrahydrofuran complex and 4-methyl-morpholine in chloroform into (+)-2-(2,6-dichlorophenoxy)-propionic acid nitrile. By introducing hydrogen chloride at 0° C., the nitrile is then converted with ethanol in chloroform into (+)-2-(2,6-dichlorophenoxy)-propionimido acid ethylester hydrochloride, this compound is dissolved in ethanol and is cyclised by adding 1,2-diaminoethane to produce (+)-2-[1-(2,6-dichlorophenoxy)-ethyl]-1,3-diazacyclopent-2-ene. Analogously to the previous process, (+)-2-[1-(2,6-dichlorophenoxy)-ethyl]-1,3-diazacyclopent-2-ene hydrochloride is produced from the (+) base thus obtained.

reactant | ammonia | N | H3N
reactant | (-)-2-(2,6dichlorophenoxy)-propionic acid amide | ClC1=C(OC(C(=O)N)C)C(=CC=C1)Cl | C9H9Cl2NO2
reactant | 4-methyl-morpholine | CN1CCOCC1 | C5H11NO
reactant | hydrogen chloride | Cl | ClH
reactant | 1,2-diaminoethane | NCCN | C2H8N2
solvent | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (+)-2-[1-(2,6-dichlorophenoxy)-ethyl]-1,3-diazacyclopent-2-ene | ClC1=C(OC(C)C=2NCCN2)C(=CC=C1)Cl | C11H12Cl2N2O
